US04623662
4-Butyl-N-[5-(trimethylsilyl)pentyl]benzenemethanamine
To a suspension of 2.5 g of lithium aluminum hydride in 100 ml of anhydrous tetrahydrofuran was added dropwise a solution of 5.0 g of N-[(4-butylphenyl)methyl]-5-(trimethylsilyl)pentanamide in tetrahydrofuran. The resulting mixture was heated at reflux for 16 hours. The mixture was cooled, and the complex was decomposed by the cautious portionwise addition of sodium sulfate decahydrate. The mixture was stirred for 1/2 hour and then filtered. The solid was washed with tetrahydrofuran, and the filtrate was dried with anhydrous magnesium sulfate and filtered. The filtrate was evaporated to dryness and gave 4.53 g of the desired product as a colorless liquid, in 95% yield.

reactant | lithium aluminum hydride | 2.5 g | [H-].[Al+3].[Li+].[H-].[H-].[H-]
reactant | N-[(4-butylphenyl)methyl]-5-(trimethylsilyl)pentanamide | 5.0 g | C(CCC)C1=CC=C(C=C1)CNC(CCCC[Si](C)(C)C)=O | C19H33NOSi
reactant | sodium sulfate decahydrate | O.O.O.O.O.O.O.O.O.O.S(=O)(=O)([O-])[O-].[Na+].[Na+]
solvent | tetrahydrofuran | 100 ml | O1CCCC1 | C4H8O
product | 4-Butyl-N-[5-(trimethylsilyl)pentyl]benzenemethanamine | 4.53 g, 95% yield | C(CCC)C1=CC=C(C=C1)CNCCCCC[Si](C)(C)C | C19H35NSi
